US07651639B2
To 1000 g of 10% sulfophthalic acid aqueous solution stirred at room temperature, 30 g of calcium hydroxide was added. The stirring was continued while measuring the pH value. At the time when the pH value reached 6, approximately, filtration was done by using a 0.4 μm glass filter to remove the insoluble components, so as to obtain a calcium sulfophthalate aqueous solution.

reactant | sulfophthalic acid | 1000 g | S(=O)(=O)(O)C1=C(C(C(=O)O)=CC=C1)C(=O)O | C8H6O7S
reactant | calcium hydroxide | 30 g | [OH-].[Ca+2].[OH-]
product | calcium sulfophthalate | S(=O)(=O)(O)C1=C(C(C(=O)[O-])=CC=C1)C(=O)[O-].[Ca+2] | InChI=1S/C8H6O7S.Ca/c9-7(10)4-2-1-3-5(16(13,14)15)6(4)8(11)12;/h1-3H,(H,9,10)(H,11,12)(H,13,14,15);/q;+2/p-2
